US07723369B2
5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (67 mg, 0.1 mmol) was treated as described in general procedure R using excess 1-methylpiperazine (100 mg, 1 mmol) to give 5-(4-{4-(2,4-dichloro-phenyl)-2-[4′-(4-methyl-piperazin-1-yl)-biphenyl-4-ylmethyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 67 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C30H21BrCl2N4O3S
reactant | 1-methylpiperazine | 1 mmol, 100 mg | CN1CCNCC1 | C5H12N2
product | 5-(4-{4-(2,4-dichloro-phenyl)-2-[4′-(4-methyl-piperazin-1-yl)-biphenyl-4-ylmethyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C | C35H32Cl2N6O3S
